US08580794B2
3-chloro-4-((trans-4-hydroxycyclohexyl)methoxy)benzenesulfonamide
(Trans-4-(tert-butyldimethylsilyloxy)cyclohexyl)methanol (275 mg, prepared according to a procedures in WO 2008/124878) and 3-chloro-4-fluorobenzenesulfonamide (259 mg) in tetrahydrofuran (15 mL) were treated with sodium hydride (180 mg, 60%) overnight. The reaction was quenched with water (1 mL) and trifluoroacetic acid (4 mL) was added. The resulting mixture was stirred for 1 hour and concentrated. The residue was triturated with water and methanol to provide the title compound.

reactant | (Trans-4-(tert-butyldimethylsilyloxy)cyclohexyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)CO | C13H28O2Si
reactant | 3-chloro-4-fluorobenzenesulfonamide | 259 mg | ClC=1C=C(C=CC1F)S(=O)(=O)N | C6H5ClFNO2S
reactant | sodium hydride | 180 mg | [H-].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-chloro-4-((trans-4-hydroxycyclohexyl)methoxy)benzenesulfonamide | ClC=1C=C(C=CC1OC[C@@H]1CC[C@H](CC1)O)S(=O)(=O)N | C13H18ClNO4S
